US08242125B2
To a precooled (0° C.) solution of 5-methoxy-2-methyl-1H-indole (5.0 g, 31.0 mmol) in 100 mL DCM is added BBr3 (1 M solution, 46.5 mL) under a dry nitrogen atmosphere. The solution is then allowed to slowly warm to room temperature over a 2 h period. The solution is then poured into water, neutralized to pH 7 with sat aq sodium bicarbonate solution and extracted with EtOAc. The extract is washed by brine, dried over sodium sulfate, and concentrated to give 2-methyl-1H-indol-5-ol. MS (ESI) m/z 148.2 (M+1).

reactant | 5-methoxy-2-methyl-1H-indole | 31.0 mmol, 5.0 g | COC=1C=C2C=C(NC2=CC1)C | C10H11NO
reactant | BBr3 | 1 M, 46.5 mL | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-methyl-1H-indol-5-ol | CC=1NC2=CC=C(C=C2C1)O | C9H9NO
